US07166597B2
N-[3-(dimethylamino)propyl-N-[4-{6-(trifluoromethyl)-2-[4-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyridin-3-yl}pyrimidin-2-yl]amine
3-(Dimethylamino)propylamine (0.04 mL) and methyl 4-{6-(trifluoromethyl)-2-[4-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyridin-3-yl}pyrimidin-2-yl sulfone (0.02 g) were mixed at room temperature and heated with an airgun until a homogenous melt was obtained (2 min). Upon cooling, water was added. The precipitated solid was filtered and dried to give the title compound as a white solid (0.012 g); 1H NMR (d6-DMSO) δ 9.52(1H, s), 8.50(1H, bs), 8.16(1H, d), 7.87(4H, dd), 7.69(1H, d), 7.26(1H, bs), 6.34(1H, bs), 3.25(2H, bs), 2.24(2H, bs), 2.11(6H, s), 1.63(2H, bs); m/z 509 (M+1)+.

reactant | 3-(Dimethylamino)propylamine | 0.04 mL | CN(CCCN)C | C5H14N2
reactant | methyl 4-{6-(trifluoromethyl)-2-[4-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyridin-3-yl}pyrimidin-2-yl sulfone | 0.02 g | FC(C=1C=CC=2N(C1)N=C(C2C2=NC(=NC=C2)S(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F)(F)F | C20H12F6N4O2S
solvent | water | O | H2O
product | 3-(dimethylamino)propyl-N-[4-{6-(trifluoromethyl)-2-[4-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyridin-3-yl}pyrimidin-2-yl]amine | 0.012 g | CN(CCCNC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F)C | C24H22F6N6
